US06391887B1
4-Amino-7-nitro-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline
As described for Example 4, 8-methyl-7-nitro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione (42 mg, 0.16 mmol) is reacted with 7N methanolic ammonia solution (10 ml) to form 30 mg (77%) of product.

reactant | 8-methyl-7-nitro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 0.16 mmol, 42 mg | CC1=CC=2C3C(C(NC2C=C1[N+](=O)[O-])=S)CCC3 | C13H14N2O2S
reactant | ammonia | 7N, 10 ml | N | H3N
product | 4-Amino-7-nitro-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline | 30 mg, 77% | NC1=NC=2C=C(C=CC2C2C1CCC2)[N+](=O)[O-] | C12H13N3O2
